US07335671B2
2-Ethyl-4-{(1R,3S)-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]-cyclohexyloxy}but-2-enoic acid
0.5 g of ethyl 2-ethyl-4-{(1R,3S)-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyloxy}but-2-enoate is dissolved in 5 ml of methanol, and 2.5 ml of a 1N aqueous sodium hydroxide solution are added. After 12 h of stirring at room temperature, the mixture is acidified with 3 ml of 1 N hydrochloric acid and the resulting precipitate is taken up in ethyl acetate. The solvent is removed under reduced pressure and the residue of the ester hydrolysis, 2-ethyl4-{(1R,3S)-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyloxy}but-2-enoic acid, is obtained as 0.45 g of a white solid. C23H28FNO5 (417.48) MS(ESI): 418 (M+H+)

reactant | ethyl 2-ethyl-4-{(1R,3S)-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyloxy}but-2-enoate | 0.5 g | C(C)C(C(=O)OCC)=CCO[C@H]1C[C@H](CCC1)OCC=1N=C(OC1C)C1=CC=C(C=C1)F | C25H32FNO5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 3 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Ethyl-4-{(1R,3S)-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]-cyclohexyloxy}but-2-enoic acid | 0.45 g | C(C)C(C(=O)O)=CCO[C@H]1C[C@H](CCC1)OCC=1N=C(OC1C)C1=CC=C(C=C1)F | C23H28FNO5
